US07622491B2
(4-{3-[4-Chloro-2-(4-methyl-benzotriazol-2-yl)-phenoxy]-propoxy}-phenyl)-acetic acid ethyl ester (Compound 1590)
A mixture of 4-chloro-2-(4-methyl-benzotriazol-2-yl)-phenol (93 mg, 0.36 mmol), [4-(3-bromo-propoxyl)-phenyl]-acetic acid ethyl ester (130 mg, 1.2 eq.) and Cs2CO3 (140 mg, 1.2 eq.) in CH3CN (10 ml) was heated to reflux for I hr. After cooling to r.t., the solid was filtered off and the filtrate was concentrated in vacuo. The crude product was purified on silica gel to give the desired compound.

reactant | 4-chloro-2-(4-methyl-benzotriazol-2-yl)-phenol | 0.36 mmol, 93 mg | ClC1=CC(=C(C=C1)O)N1N=C2C(=N1)C=CC=C2C | C13H10ClN3O
reactant | [4-(3-bromo-propoxyl)-phenyl]-acetic acid ethyl ester | 130 mg, 1.2 eq. | C(C)OC(CC1=CC=C(C=C1)OCCCBr)=O | C13H17BrO3
reactant | Cs2CO3 | 140 mg, 1.2 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | (4-{3-[4-Chloro-2-(4-methyl-benzotriazol-2-yl)-phenoxy]-propoxy}-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)OCCCOC1=C(C=C(C=C1)Cl)N1N=C2C(=N1)C=CC=C2C)=O | C26H26ClN3O4
